US06028116
(C) (Z)-5-fluoro-2-methyl-1-(3,4,5-trimethoxybenzylidene)-1H-3-indenyl-(2-hydroxy)ethane
Lithium borohydride (1.38 mmol) in THF (2 ml) is added to a suspension of (Z)-5-Fluoro-2-methyl-1-(3,4,5-trimethoxybenzylidene)-3-indenylacetyl chloride (2.78 mmol) in THF (20 ml) at 0° C. The reaction is quenched after 5 minutes with HCl (10%, aqueous, 30 ml). Ethyl acetate (50 ml) is added in order to extract the product. The organic layer is washed with water (2×50 ml), is dried over Na2SO4 and is evaporated to give the title compound, which is purified with flash chromatography (ethylacetate:hexane 8:2). (R1 =F, R2 =CH3, R3 =H, R4 =H, Y=3,4,5-trimethoxyphenyl, n=1, R5 and R6 form a double bond, R7 =H, m=1, p=1).

reactant | Lithium borohydride | 1.38 mmol | [BH4-].[Li+]
reactant | (Z)-5-Fluoro-2-methyl-1-(3,4,5-trimethoxybenzylidene)-3-indenylacetyl chloride | 2.78 mmol | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC(=C(C(=C1)OC)OC)OC)C)CC(=O)Cl | C22H20ClFO4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (Z)-5-fluoro-2-methyl-1-(3,4,5-trimethoxybenzylidene)-1H-3-indenyl-(2-hydroxy)ethane | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC(=C(C(=C1)OC)OC)OC)C)CCO | C22H23FO4
